US04958026
In the presence of Raney nickel, 9.5 g of (3-amino-4-benzyloxyphenyl)acetonitrile is hydrogenated in 60 ml of ammonia-saturated methanol at 100° C. and under a pressure of 5,000 kPa. The hydrogenation product is chromatographed on silica gel with methylene chloride/methanol (7:3), thus obtaining 6.82 g of 5-(2-aminoethyl)-2-benzyloxyaniline as an oil, converted by treatment with 2N HCl in methanol and evaporation into the hydrochloride.

reactant | (3-amino-4-benzyloxyphenyl)acetonitrile | 9.5 g | NC=1C=C(C=CC1OCC1=CC=CC=C1)CC#N | C15H14N2O
catalyst | Raney nickel | [Ni] | Ni
solvent | ammonia | 60 ml | N | H3N
product | 5-(2-aminoethyl)-2-benzyloxyaniline | 6.82 g | NCCC=1C=CC(=C(N)C1)OCC1=CC=CC=C1 | C15H18N2O
